US09283224B2
Step 10: 5-(Pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxamide
To a solution of 5-(pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile (85 mg, 0.28 mmol) in TFA (1.0 mL) were sequentially added water (0.15 mL) and 98% sulfuric acid (0.30 mL) under efficient stirring. The mixture was allowed to stir for 5 h at 70° C. and then was diluted by drop wise addition of water (1 mL). The reaction mixture was made basic (pH 10-12) by adding 30% aqueous ammonia (3 mL) under stirring. The precipitated solid was collected by filtration, washed with water and finally dried in a vacuum oven at 50° C. affording the title compound (72 mg, 83%).

reactant | 5-(pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile | 0.28 mmol, 85 mg | N1=CN=C(C=C1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C#N | C16H11ClN4
reactant | water | 0.15 mL | O | H2O
reactant | sulfuric acid | 0.30 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 1 mL | O | H2O
reactant | ammonia | 3 mL | N | H3N
solvent | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(Pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxamide | 72 mg, 83% | N1=CN=C(C=C1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)N | C16H13ClN4O
